US06734179B2
[7-(5,6-Dihydro-4H-pyran-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester
From (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester with tributyl-(5,6-dihydro-4H-pyran-2-yl)-stannane, bis(dibenzylideneacetone)palladium, trifurylphosphine and triethylamine in dioxane. ES-MS m/e (%): 321 (M+H+, 100).

reactant | (7-iodo-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2I)OC)=O | C10H9IN2O3S
reactant | tributyl-(5,6-dihydro-4H-pyran-2-yl)-stannane | C(CCC)[Sn](C=1OCCCC1)(CCCC)CCCC
reactant | trifurylphosphine | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [7-(5,6-Dihydro-4H-pyran-2-yl)-4-methoxy-benzothiazol-2-yl]-carbamic acid methyl ester | COC(NC=1SC2=C(N1)C(=CC=C2C=2OCCCC2)OC)=O | C15H16N2O4S
